data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7102,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C[N-][N+:2]#[N:3].[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6591,"C(C[CH:1]=[O:2])C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2079,"CC(O)(C1=C(Cl)C=CC=C1)[CH:1]([H:2])[C:3](C1=C(Cl)C=CC=C1)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5365,"CO[C:1](=[CH2:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4948,"C[CH:1]1[NH+:2](C)CCC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3892,"CCC(C[C:1]#[C:2]C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3088,"C1=CC2=C(C=C1)C(CC[NH2+:1][H:2])=CN2.CC(C)(C)OC(=O)C(NCCC1=CNC2=CC=CC=C12)(C(=O)CC1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,618,"CC(=O)O[C:1]([CH:2](NC(=O)C1=CC=CC=C1)[H:3])=[O:4].COC1=C(C=O)C(O)=CC=C1.O=C(O)[O][K].O=C([O][K])[O-:5].[K+]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3556,"CC(=O)O.COC1=NC(C2=CN(COCC[Si](C)(C)C)C3=C2C2CC(OC)(CC(O[I:1]4(OC(C)=O)([O:2]C(C)=O)OC(=O)C5=C4C=CC=C5)C2C)C3=O)=CN=C1C1=CN(S(=O)(=O)C2=CC=C(C)C=C2)C2=CC(Br)=CC=C12|((1, 2), 2)"
train,pmechdb_split_0,0,3803,"CCOP(OCC)(OC(C)C)=[O+][Al-]([CH3])([CH3])[O:1]C1=CC=CC=C1.CCO[P:2](OCC)(=[O+:3][Al-]([CH3])([CH3])[O]C1=CC=CC=C1)[O:4][CH:5](C)C|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8593,"CBr.O.O=C1CCC2(O)C3CC4=C5C(=C([O:1][B-:2](O)(Br)Br)C=C4)OC1C52CCN3|((2, 1), 1)"
train,pmechdb_split_0,0,3470,"CCO[C:1](CCC#N)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3043,"C1=C[C:1](=[O:2])CC1.C=[CH:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4250,"CCOC(=O)N1CCC=CC1C[CH+]C[Si:1](C)(C)C.[Cl][Sn]([Cl])([Cl])[Cl].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,8020,"BrC1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2356,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1C.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1109,"C1C[S:1][S:2]C1.C[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9638,"O=C(NC(NC(O)=[O+:1][H:2])=C([N+](=O)[O-])[N+](=O)[O-])[C-:3]([N+](=O)[O-])[N+](=O)[O-].O=S(=O)(O)O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9069,"CC[NH+:1](CC)[CH:2](C)[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2925,"CCOC(=O)C(Br)CCC[C:1](C#N)([H:2])[C:3](OCC)=[O:4].N#[C-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8892,"C[CH:1]1C[OH+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3754,"CC(=O)[O-].CC[N+:1](CC)(CC)[H:2].COC1=C([N+](=O)[O-])C=CC(N2CCC(N3CCCC(O)C3)([OH:3])CC2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7263,"C1=CC=C([C:1]([CH2:2][H:3])=[O:4])C=C1.O=CC1=CC=CC=C1.[Na+].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8937,"C[C:1](C#N)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9248,"CC(=O)[O-:1].CN=C=[N+:2](C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,833,"CC(=O)C=CC(O)C1C(=O)OC2C(O)C[O+:1]([H:2])C21O.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8800,"CC(C)CC[N+:1]1(CCCl)C[CH2:2]1.CC[NH:3]C(C)C.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5248,"CC1=CC[C:1](CCC2=CC=CC=C2)([OH:2])[NH:3]1.CO.N.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3413,"CC(=O)O[Si-](C)(C)(C)OC(C)=[O:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2399,"CC(=O)[O-:1].O.O=C(O)C[NH+:2]=[C:3](C1=C2C=CC=CC2=CC=C1)[CH:4](C(C(=O)C1=CC=CO1)C1=CC=CC=C1)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,5381,"C=CCN1CCC23C4=C5C=CC(OC)=C4OC2C(=[O+:1][H:2])CCC3C1C5.C=CC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,802,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=C([C:1]2([OH2+:2])CC=C(C3=CC=CC=C3)[O:3]2)C=C1.CC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8660,"CC(=O)O[B-:1](OC(C)=O)(OC(C)=O)[H:2].CC(=O)[O-].CC(C)OC1=C(N2CC[N+:3](=[C:4]3CCC(NC(=O)OC(C)(C)C)CC3)CC2)C=CC(F)=C1.[Na+]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8049,"CO[CH:1]=[OH+:2].C[NH2:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9007,"CC(=O)CCC(C)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5956,"CCCC1CCC(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10366,"CC(=O)[O][Sn-:1]([Br])([Br])([Br])[Br+:2]C1CC(CCC2=CC=C(OCC3=CC=CC=C3)C=C2)OC(C2=CC=C(OS(=O)(=O)C3=CC=C(C)C=C3)C=C2)C1|((1, 2), 2)"
train,pmechdb_split_0,0,7177,"CC[N:1](CC)CC.C[Si-](C)(C)(Cl)[O+:2](C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3234,"CC1=CC=C(O)C=C1.CCCCOCC1C(OCCCC)C(OCCCC)[C:1]([CH2:2][O:3][C:4](C)=[O+:5][B-](F)(F)F)=[CH:6][O:7]1|(7, 6);((6, 1), 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4685,"CC(C)[CH:1]=[O+:2]C.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1565,"CC(=O)[O:1][H:2].CC(C)N(CC1=CC=CC=C1)C(=O)C1[NH+]=C2CC34CCN(C)C(CC5=C3C=CC=C5)C4(O)CC2C1(C)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,118,"C=CC[Si](C)(C)C.CC(C)[O:1][CH:2](CCC1=CC=CC=C1)[O+:3]([Si](C)(C)C)[Si](C)(C)C.O=S(=O)([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
